US07030128B2
2-[3-(2-(Pyridin-4-yl)pyrimidin-4-yl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol
7-(1-Methyl-1-triethylsilanyloxyethyl)-3-[2-(pyridin-4-yl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidine from above was treated with conc. HCl (10 drops) as described in Example 39 to yield after purification by column chromatography on silica, using 6% MeOH/CH2Cl2 as the eluent, 2-[3-(2-(pyridin-4-yl)pyrimidin-4-yl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol (51 mg, 15%): 1H NMR (360 MHz, d6-DMSO) δ 10.23 (1H, d, J 7.2), 8.98 (1H, d, J 5.5), 8.88 (1H, s), 8.85-8.80 (2H, m), 8.36 (2H, dd, J 4.5, 1.6), 8.14 (1H, d, J 5.5), 7.77 (1H, d, J 7.2), 5.62 (1H, s), 1.55 (6H, s); m/z (ES+) 333 (M+H+).

reactant | 7-(1-Methyl-1-triethylsilanyloxyethyl)-3-[2-(pyridin-4-yl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidine | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)C2=NC(=NC=C2)C2=CC=NC=C2 | C24H30N6OSi
catalyst | HCl | 10 drops | Cl | ClH
product | 2-[3-(2-(Pyridin-4-yl)pyrimidin-4-yl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | N1=CC=C(C=C1)C1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(C)O | C18H16N6O
